US08729068B2
A mixture of 290 mg of methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate, 1.5 mL of a 1.0 M aqueous sodium hydroxide solution, and 2.9 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure, and to the residue were added water, citric acid, dichloromethane, and THF in this order. The organic layer was separated and then concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform-methanol). The crude purified product thus obtained was washed with diethyl ether to obtain 169 mg of 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid as a pale yellow solid.

reactant | methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 290 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C(C)C | C41H45N3O8S2
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | ethanol | 2.9 mL | C(C)O | C2H6O
product | 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](isopropyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoic acid | 169 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)C(C)C | C40H43N3O8S2
